### PR TITLE
feat(CategoryTheory/Monoidal): evaluation coevaluation isomorphisms

### PR DESCRIPTION
**Pull request by parabamoghv**
This PR adds four features to rigid categories:

1. `coevaluation_evaluation` and `evaluation_coevaluation` as isomorphism equalities:  Using `IsIso` instances for the `evaluation` and `coevaluation` morphisms, we promote the morphism equalities to isomorphism equalities.
2. `ExactPairing Y X` from `ExactPairing X Y`: Using an exact pairing and `IsIso` instances for both `evaluation` and `coevaluation`, we swap the exact pairing by inverting the evaluation and coevaluation morphisms. Any suggestions for the definition name are welcome. Right now it is `ExactPairing.Symm`. The second choice was `ExactPairing.Swap`.
3. `HasLeftDual X` from `HasRightDual X`: Using a `HasRightDual X` instance and relevant `IsIso` instances, we construct a left dual. Similar construction for the other way.
4. `LeftDual` isomorphic to `RightDual`: Using relevant `IsIso` instances, we provide the isomorphism from the left dual of an object to the right dual. This can be achieved in two ways: either by using `leftDualIso` or using `rightDualIso`. We will prove in a subsequent PR that both these isomorphisms are equal.

Motivation: This is part of an effort to formalize CategoricalGroups, which can be defined as right rigid groupoids. The approach is motivated by the discussion in [#34830](https://github.com/leanprover-community/mathlib4/pull/34830). 

Any comments or suggestions are welcome, especially about the naming.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 1]
```diff
@@ -124,6 +124,47 @@ lemma evaluation_coevaluation'' :
...
+  evaluation_coevaluation' := by
+    have : (asIso (ε_ X Y)).symm ▷ᵢ Y ≪≫
+    (α_ Y X Y) ≪≫ Y ◁ᵢ (asIso (η_ X Y)).symm
+    = (λ_ Y) ≪≫ (ρ_ Y).symm := by
+      apply Iso.symm_bijective.injective
+      simp only [Iso.trans_symm, whiskerLeftIso_symm, Iso.symm_symm_eq, whiskerRightIso_symm,
+        Iso.trans_assoc]
+      exact coevaluation_evaluation_iso X Y
+    simpa [Iso.trans_hom, whiskerLeftIso_hom, Iso.symm_hom, whiskerRightIso_hom] using
+      congr($(this).hom)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
/--
Swap the terms of an exact pairing, provided that the evaluation and coevaluation are isomorphisms.
-/
def Symm [IsIso (ε_ X Y)] [IsIso (η_ X Y)] : ExactPairing Y X where
  coevaluation' := inv (ε_ X Y)
  evaluation' := inv (η_ X Y)
  coevaluation_evaluation' := by
    have : X ◁ᵢ (asIso (ε_ X Y)).symm ≪≫ (α_ X Y X).symm ≪≫ (asIso (η_ X Y)).symm ▷ᵢ X =
        (ρ_ X) ≪≫ (λ_ X).symm := by
      apply Iso.symm_bijective.injective
      ext
      simp [evaluation_coevaluation]
    simpa [Iso.ext_iff] using this
  evaluation_coevaluation' := by
    have : (asIso (ε_ X Y)).symm ▷ᵢ Y ≪≫ (α_ Y X Y) ≪≫ Y ◁ᵢ (asIso (η_ X Y)).symm =
        (λ_ Y) ≪≫ (ρ_ Y).symm := by
      apply Iso.symm_bijective.injective
      ext
      simp [coevaluation_evaluation]
    simpa [Iso.ext_iff] using this
```

**Review by dagurtomas — COMMENTED** [review]
In general, lemmas stating equalities of isomorphisms are unnecessary. Please also take note of my code formatting suggestions

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean (hunk 1 above)
Comment (parabamoghv) [reply Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]: Makes sense. Thank you for the suggestions. I have implemented them.

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 2]
```diff
@@ -575,6 +608,18 @@ theorem leftDualIso_id {X Y : C} (p : ExactPairing X Y) : leftDualIso p p = Iso.
   ext
   simp only [leftDualIso, Iso.refl_hom, @leftAdjointMate_id]
 
+/-- Left dual and right dual are isomorphic provided left dual has isomorphic evaluation and
+coevaluation. -/
+def LeftDualRightDualIso {Xₗ X Xᵣ : C} (p : ExactPairing Xₗ X) [IsIso (ε_ Xₗ X)] [IsIso (η_ Xₗ X)]
+(q : ExactPairing X Xᵣ) : Xₗ ≅ Xᵣ :=
+  rightDualIso (p.Symm) (q)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
  rightDualIso p.Symm q
```

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 3]
```diff
@@ -575,6 +608,18 @@ theorem leftDualIso_id {X Y : C} (p : ExactPairing X Y) : leftDualIso p p = Iso.
...
+
+/-- Left dual and right dual are isomorphic provided right dual has isomorphic evaluation and
+coevaluation. -/
+def RightDualLeftDualIso {Xₗ X Xᵣ : C} (p : ExactPairing Xₗ X)
+(q : ExactPairing X Xᵣ) [IsIso (ε_ X Xᵣ)] [IsIso (η_ X Xᵣ)] : Xₗ ≅ Xᵣ :=
+  leftDualIso p (q.Symm)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
  leftDualIso p q.Symm
```

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 4]
```diff
@@ -575,6 +608,18 @@ theorem leftDualIso_id {X Y : C} (p : ExactPairing X Y) : leftDualIso p p = Iso.
...
+/-- Left dual and right dual are isomorphic provided left dual has isomorphic evaluation and
+coevaluation. -/
+def LeftDualRightDualIso {Xₗ X Xᵣ : C} (p : ExactPairing Xₗ X) [IsIso (ε_ Xₗ X)] [IsIso (η_ Xₗ X)]
+(q : ExactPairing X Xᵣ) : Xₗ ≅ Xᵣ :=
+  rightDualIso (p.Symm) (q)
+
+/-- Left dual and right dual are isomorphic provided right dual has isomorphic evaluation and
+coevaluation. -/
+def RightDualLeftDualIso {Xₗ X Xᵣ : C} (p : ExactPairing Xₗ X)
+(q : ExactPairing X Xᵣ) [IsIso (ε_ X Xᵣ)] [IsIso (η_ X Xᵣ)] : Xₗ ≅ Xᵣ :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
    (q : ExactPairing X Xᵣ) [IsIso (ε_ X Xᵣ)] [IsIso (η_ X Xᵣ)] : Xₗ ≅ Xᵣ :=
```
continuation lines in statements should be indented by 4 spaces

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 5]
```diff
@@ -575,6 +608,18 @@ theorem leftDualIso_id {X Y : C} (p : ExactPairing X Y) : leftDualIso p p = Iso.
   ext
   simp only [leftDualIso, Iso.refl_hom, @leftAdjointMate_id]
 
+/-- Left dual and right dual are isomorphic provided left dual has isomorphic evaluation and
+coevaluation. -/
+def LeftDualRightDualIso {Xₗ X Xᵣ : C} (p : ExactPairing Xₗ X) [IsIso (ε_ Xₗ X)] [IsIso (η_ Xₗ X)]
+(q : ExactPairing X Xᵣ) : Xₗ ≅ Xᵣ :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
    (q : ExactPairing X Xᵣ) : Xₗ ≅ Xᵣ :=
```
continuation lines in statements should be indented by 4 spaces

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 6]
```diff
@@ -124,6 +124,27 @@ lemma evaluation_coevaluation'' :
     η_ X Y ▷ X ⊗≫ X ◁ ε_ X Y = ⊗𝟙.hom := by
   convert evaluation_coevaluation X Y <;> simp [monoidalComp]
 
+/--
+Swap the terms of an exact pairing, provided that the evaluation and coevaluation are isomorphisms.
+-/
+def Symm [IsIso (ε_ X Y)] [IsIso (η_ X Y)] : ExactPairing Y X where
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
def symm [IsIso (ε_ X Y)] [IsIso (η_ X Y)] : ExactPairing Y X where
```

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 7]
```diff
@@ -124,6 +124,27 @@ lemma evaluation_coevaluation'' :
...
+      simp [evaluation_coevaluation]
+    simpa [Iso.ext_iff] using this
+  evaluation_coevaluation' := by
+    have : (asIso (ε_ X Y)).symm ▷ᵢ Y ≪≫ (α_ Y X Y) ≪≫ Y ◁ᵢ (asIso (η_ X Y)).symm =
+        (λ_ Y) ≪≫ (ρ_ Y).symm := by
+      apply Iso.symm_bijective.injective
+      ext
+      simp [coevaluation_evaluation]
+    simpa [Iso.ext_iff] using this
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean:148]:
```suggestion

@[simp]
lemma symm_evaluation [IsIso (ε_ X Y)] [IsIso (η_ X Y)] :
    letI : ExactPairing Y X := symm X Y
    η_ Y X = inv (ε_ X Y) :=
  rfl

@[simp]
lemma symm_coevaluation [IsIso (ε_ X Y)] [IsIso (η_ X Y)] :
    letI : ExactPairing Y X := symm X Y
    ε_ Y X = inv (η_ X Y) :=
  rfl

```

There needs to be some characterizing lemmas
Once the fields of `ExactPairing` will be unprimed (a due refactor), these will be generated by `simps`, but for now I suggest adding them and I’ll get around doing that refactor soon.

(The reason there are `evaluation'` as well as `evaluation` is because `evaluation'` takes `X` and `Y` as implicit arguments, and `evaluation` take them as explicit arguments, but a language feature that landed since now allows to specify explicitness of parameters of fields of structures directly, so there is no need for `evaluation'` anymore).

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 8]
```diff
@@ -180,6 +201,18 @@ theorem leftDual_rightDual {X : C} [HasRightDual X] : ᘁXᘁ = X :=
 theorem rightDual_leftDual {X : C} [HasLeftDual X] : (ᘁX)ᘁ = X :=
   rfl
 
+/-- The left dual treated as right dual provided isomorphic evaluation and coevaluation. -/
+abbrev hasLeftDual_of_hasRightDual {X : C} [HasRightDual X] [IsIso (ε_ X (Xᘁ))] [IsIso (η_ X (Xᘁ))]
+: HasLeftDual X where
+  leftDual := Xᘁ
+  exact := ExactPairing.Symm X (Xᘁ)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
abbrev hasLeftDual_of_hasRightDual {X : C} [HasRightDual X]
    [IsIso (ε_ X (Xᘁ))] [IsIso (η_ X (Xᘁ))] :
    HasLeftDual X where
  leftDual := Xᘁ
  exact := ExactPairing.symm X Xᘁ
```

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 9]
```diff
@@ -180,6 +201,18 @@ theorem leftDual_rightDual {X : C} [HasRightDual X] : ᘁXᘁ = X :=
...
+
+/-- The right dual treated as left dual provided isomorphic evaluation and coevaluation. -/
+abbrev hasRightDual_of_hasLeftDual {X : C} [HasLeftDual X] [IsIso (ε_ (ᘁX) X)] [IsIso (η_ (ᘁX) X)]
+: HasRightDual X where
+  rightDual := ᘁX
+  exact := ExactPairing.Symm (ᘁX) X
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
abbrev hasRightDual_of_hasLeftDual {X : C} [HasLeftDual X]
    [IsIso (ε_ (ᘁX) X)] [IsIso (η_ (ᘁX) X)] :
    HasRightDual X where
  rightDual := ᘁX
  exact := ExactPairing.symm ᘁX X
```

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 10]
```diff
@@ -575,6 +608,18 @@ theorem leftDualIso_id {X Y : C} (p : ExactPairing X Y) : leftDualIso p p = Iso.
   ext
   simp only [leftDualIso, Iso.refl_hom, @leftAdjointMate_id]
 
+/-- Left dual and right dual are isomorphic provided left dual has isomorphic evaluation and
+coevaluation. -/
+def LeftDualRightDualIso {Xₗ X Xᵣ : C} (p : ExactPairing Xₗ X) [IsIso (ε_ Xₗ X)] [IsIso (η_ Xₗ X)]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]:
```suggestion
@[simps!]
def ExactPairing.leftDualRightDualIso {Xₗ X Xᵣ : C} (p : ExactPairing Xₗ X) [IsIso (ε_ Xₗ X)] [IsIso (η_ Xₗ X)]
```

The reason I am suggesting namespacing this name is that I think that `leftDualRightDualIso` should be a version of this that takes only typeclasses arguments:

```lean
/-- Left dual and right dual are isomorphic provided left dual has isomorphic evaluation and
coevaluation. -/
@[simps!]
def leftDualRightDualIso (X : C) [HasLeftDual X]
    [IsIso (ε_ ᘁX X)] [IsIso (η_ ᘁX X)] [HasRightDual X] :
    (ᘁX) ≅ Xᘁ :=
  HasLeftDual.exact.leftDualRightDualIso HasRightDual.exact
```

Same applies for the other isomorphism

Comment (parabamoghv) [reply Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean]: Changed the naming for both isomorphisms. Now that I see the two versions, it makes sense. I did not add the `leftDualRightDualIso` definition since it feels repetitive.

File: Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean [hunk 11]
```diff
@@ -124,6 +124,40 @@ lemma evaluation_coevaluation'' :
     η_ X Y ▷ X ⊗≫ X ◁ ε_ X Y = ⊗𝟙.hom := by
   convert evaluation_coevaluation X Y <;> simp [monoidalComp]
 
+/--
+Swap the terms of an exact pairing, provided that the evaluation and coevaluation are isomorphisms.
+-/
+@[reducible]
+def symm [IsIso (ε_ X Y)] [IsIso (η_ X Y)] : ExactPairing Y X where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Rigid/Basic.lean:131]: I am not convinced we should use the name `symm` for this construction. I believe a short name should be reserved for the not so well named `exactPairing_swap` (which we have for braided categories). I would suggest naming this `swapOfIsIso` (or `swapOfIsInvertible` if you would consider adding a typeclass `ExactPairing.IsInvertible`).
